US04988604
SYNTHESIS OF 3-CHLOROACETAMIDO-2,4-DIMETHYLBENZENE SULFONYL CHLORIDE
To chlorosulfonic acid (75 mL, 1.15 mol) was added with stirring solid 2-chloro-2',6'-acetoxylidide over a 30 minute period at 25°-30° C. and the reaction mixture was stirred at 60°-65° C. for 1.5 hours. The reaction was cooled, added to ice and extracted with ethyl acetate/methyl ethyl ketone. The combined extracts were washed with water and brine; dried, and the solvent was removed in vacuo; the residual product (61.4 g, 69%) was a white solid, m.p. 147.5°-149° C.

reactant | chlorosulfonic acid | 1.15 mol, 75 mL | ClS(=O)(=O)O | ClHO3S
reactant | 2-chloro-2',6'-acetoxylidide | CC1=C(C(=CC=C1)C)NC(=O)CCl | C10H12ClNO
product | 3-CHLOROACETAMIDO-2,4-DIMETHYLBENZENE SULFONYL CHLORIDE | ClCC(=O)NC=1C(=C(C=CC1C)S(=O)(=O)Cl)C | C10H11Cl2NO3S
